US04891363
dl-3-{5-[(cis-3-Heptadecylcarbamoyloxytetrahydropyran-2-yl)methoxycarbonylamino]pentyl}thiazolium bromide
Following a procedure similar to that described in Example 4 but using 550.2 mg of dl-cis-2-[N-(5-bromopentyl)carbamoyloxy]methyltetrahydropyran-3-yl N-heptadecylcarbamate (prepared as described in Preparation 67) and 0.65 ml of thiazole, 526.9 mg of the title compound was obtained as a white powder, melting at 115°-120° C.

reactant | cis-2-[N-(5-bromopentyl)carbamoyloxy]methyltetrahydropyran-3-yl N-heptadecylcarbamate | C(CCCCCCCCCCCCCCCC)NC(O[C@@H]1[C@@H](OCCC1)COC(NCCCCCBr)=O)=O | C30H57BrN2O5
reactant | thiazole | 0.65 ml | S1C=NC=C1 | C3H3NS
product | 3-{5-[(cis-3-Heptadecylcarbamoyloxytetrahydropyran-2-yl)methoxycarbonylamino]pentyl}thiazolium bromide | 526.9 mg | [Br-].C(CCCCCCCCCCCCCCCC)NC(=O)O[C@@H]1[C@@H](OCCC1)COC(=O)NCCCCC[N+]1=CSC=C1 | InChI=1S/C33H59N3O5S.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-17-23-35-33(38)41-30-21-20-26-39-31(30)28-40-32(37)34-22-18-16-19-24-36-25-27-42-29-36;/h25,27,29-31H,2-24,26,28H2,1H3,(H-,34,35,37,38);1H/t30-,31-;/m0./s1
